US04767766
Step D: Preparation of 3-Hydroxy-2-phenyl-6-azabenzo[b]thiophene
A solution of 4.8 g (19 mmol) of methyl 3-phenylmethylthiopyridine-4-carboxylate in 10 mL of tetrahydrofuran was added to a slurry of 2.40 g (60 mmol) of 60% sodium hydride in 10 mL of N,N-dimethylformamide and the resulting mixture was stirred at 60° C. for 3 hours. The solution was poured onto ice water and acidified with glacial acetic acid. The filtrate was collected to afford 1.6 g (38%) of white solid.

reactant | methyl 3-phenylmethylthiopyridine-4-carboxylate | 19 mmol, 4.8 g | C1(=CC=CC=C1)CC=1C=NC=CC1C(=S)OC | C14H13NOS
reactant | sodium hydride | 60 mmol, 2.40 g | [H-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-Hydroxy-2-phenyl-6-azabenzo[b]thiophene | 1.6 g, 38% | OC=1C2=C(SC1C1=CC=CC=C1)C=NC=C2 | C13H9NOS
